US06900196B2
4-(N-Methyl)aminomethyl-1-Boc-piperidine
Using Deprotection Method A, 4-[(N-methyl)benzyloxycarbonylaminomethyl]-1-Boc-piperidine (0.30 g, 0.83 mmol) in EtOAc (5 mL) and EtOH (14 mL) afforded 201 mg (88%) of the title compound which was used without further purification.

reactant | 4-[(N-methyl)benzyloxycarbonylaminomethyl]-1-Boc-piperidine | 0.83 mmol, 0.30 g | CN(C(=O)OCC1=CC=CC=C1)CC1CCN(CC1)C(=O)OC(C)(C)C | C20H30N2O4
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 14 mL | CCO | C2H6O
product | 4-(N-Methyl)aminomethyl-1-Boc-piperidine | 201 mg, 88% | CNCC1CCN(CC1)C(=O)OC(C)(C)C | C12H24N2O2
